US06559251B1
Unbridged Indeno[1,2-b]indolylzirconium Complex 10
A sample of the indeno[1 2-b]indolyl lithium salt produced above (10 g, 42 mmol) is dissolved in toluene (95 mL) to produce an orange slurry. Diethyl ether (35 mL) is added slowly to give an orange solution. This solution is added over 15 min. at room temperature with stirring to a slurry of cyclopentadienylzirconium trichloride (11 g, 42 mmol) in toluene (190 mL) and diethyl ether (190 mL). The mixture turns deep red and is kept at room temperature overnight. The slurry is filtered to recover a red solid, which is washed with toluene (200 mL) and dried under vacuum. Yield of complex 10: 16.5 g. The 1H NMR spectrum is consistent with the proposed structure:

reactant | indeno[1 2-b]indolyl lithium | C1(=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1)[Li]
reactant | cyclopentadienylzirconium trichloride | 42 mmol, 11 g | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
solvent | toluene | 95 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 190 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 190 mL | C(C)OCC | C4H10O
solvent | Diethyl ether | 35 mL | C(C)OCC | C4H10O
product | Indeno[1,2-b]indolylzirconium | C1(=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1)[Zr] | InChI=1S/C15H8N.Zr/c1-2-6-11-10(5-1)9-13-12-7-3-4-8-14(12)16-15(11)13;/h1-4,6-9H;
